US06677368B2
Pyrrolidin-1-yl-2-[1-(toluene-4-sulfonyl)-4,5,6,7-tetrahydro-1H-indol-4-yl]-ethanone (840 mg) was reduced using lithium aluminum hydride (4 eq.) in THF (80 mL) at reflux for 5 hours to give 480 mg of mainly 4-(2-pyrrolidin-1-yl-ethyl)-4,5,6,7-tetrahydro-1H-indole as an oil.

reactant | Pyrrolidin-1-yl-2-[1-(toluene-4-sulfonyl)-4,5,6,7-tetrahydro-1H-indol-4-yl]-ethanone | 840 mg | N1(CCCC1)C(CC1C=2C=CN(C2CCC1)S(=O)(=O)C1=CC=C(C=C1)C)=O | C21H26N2O3S
reactant | lithium aluminum hydride | 4 eq. | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | 4-(2-pyrrolidin-1-yl-ethyl)-4,5,6,7-tetrahydro-1H-indole | N1(CCCC1)CCC1C=2C=CNC2CCC1 | C14H22N2
